US05231101
Into a tetrahydrofuran (THF) solution of a Grignard reagent prepared from 6.7 g of N-methyl-4-chloropiperidine and 1.2 g of magnesium, 4.68 g of 8-cyano5,6-dihydro-1H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one (the compound prepared in Referential Example 1) were added under ice cooling. After the resultant mixture was stirred for 3 hours at room temperature, a saturated aqueous solution of ammonium chloride was added, followed by stirring for 15 minutes. The reaction mixture was then extracted with chloroform. The Extract was dried over anhydrous Na2SO4 and then filtered. The filtrate so obtained was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column and, from relevant fractions eluted with chloroform:methanol (50:1), 3.1 g of 8-cyano-6,11-dihydro-11-(1-methyl-4-piperidyl)-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol were obtained (yield: 47%).

reactant | N-methyl-4-chloropiperidine | 6.7 g | CN1CCC(CC1)Cl | C6H12ClN
reactant | magnesium | 1.2 g | [Mg] | Mg
reactant | 8-cyano5,6-dihydro-1H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one | 4.68 g | C(#N)C=1C=CC2=C(CCC3=C(NCC=C3)C2=O)C1 | C15H12N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-cyano-6,11-dihydro-11-(1-methyl-4-piperidyl)-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol | 3.1 g, yield: 47% | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2(O)C2CCN(CC2)C)C1 | C21H23N3O
